US04980363
1.0 g of N-(alpha-cyanofurfuryl)-3-methylisothiazole- 5-carboxylic acid amide was dissolved in 30 ml of tetrahydrofuran, and 0.6 ml of triethylamine was added. With stirring at room temperature, hydrogen sulfide gas was introduced into the mixture. Five hours later, the reaction solvent was evaporated under reduced pressure. Water was added to the residue. The precipitated crystals were separated by filtration to give 1.1 g of the desired N[-(alpha-thiocarbamoyl)furfuryl]-3-methylisothiazole-5-carboxylic acid amide.

reactant | N-(alpha-cyanofurfuryl)-3-methylisothiazole- 5-carboxylic acid amide | 1.0 g | C(#N)C(C1=CC=CO1)NC(=O)C1=CC(=NS1)C | C11H9N3O2S
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N[-(alpha-thiocarbamoyl)furfuryl]-3-methylisothiazole-5-carboxylic acid amide | 1.1 g | C(N)(=S)C(C1=CC=CO1)NC(=O)C1=CC(=NS1)C | C11H11N3O2S2
